US08039460B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]-4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamide
Triethylamine (50 μL, 0.358 mmol) was added to a solution of the bis hydrochloride salt of (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-amine (60 mg, 0.143 mmol) and 1,1′-carbonyldiimidazole (41 mg, 0.25 mmol) in tetrahydrofuran (3 mL) at 0° C. After 25 min, 3-piperidin-4-ylquinolin-2(1H)-one (33 mg, 0.143 mmol) and dichloromethane (3 mL) were added and the mixture heated to 60° C. After 16 h, saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (3×). The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography [100% dichloromethane→95% dichloromethane/(10% ammonium hydroxide/methanol)]. Repurification by reverse phase HPLC (C-18, 10% acetonitrile/water→100% acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (57.5 mg). MS 601.2312 (M+1).

reactant | Triethylamine | 0.358 mmol, 50 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-amine | 0.143 mmol, 60 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)CC(F)(F)F)N | C15H15F5N4
reactant | 1,1′-carbonyldiimidazole | 0.25 mmol, 41 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-piperidin-4-ylquinolin-2(1H)-one | 0.143 mmol, 33 mg | N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C14H16N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]-4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamide | 57.5 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)CC(F)(F)F)NC(=O)N2CCC(CC2)C=2C(NC1=CC=CC=C1C2)=O | C30H29F5N6O2
